US05223529
Phenyl isocyanate (1.06 g) is added at a temperature in the region of 20° C. to a solution of 2-amino-N-(3-chlorophenyl)-N-phenylacetamide (2 g) in anhydrous tetrahydrofuran (30 cc). The suspension obtained is stirred for 3 hours at a temperature in the region of 20° C. and then concentrated to dryness under reduced pressure (2.7 kPa) at 40° C. After recrystallization of the residue in acetonitrile, N-(3-chlorophenyl)-2-[3-(3-methylphenyl)ureido]-N-phenylacetamide (2.3 g), m.p. 184° C., is thereby obtained.

reactant | Phenyl isocyanate | 1.06 g | C1(=CC=CC=C1)N=C=O | C7H5NO
reactant | 2-amino-N-(3-chlorophenyl)-N-phenylacetamide | 2 g | NCC(=O)N(C1=CC=CC=C1)C1=CC(=CC=C1)Cl | C14H13ClN2O
reactant | tetrahydrofuran | 30 cc | O1CCCC1 | C4H8O
product | N-(3-chlorophenyl)-2-[3-(3-methylphenyl)ureido]-N-phenylacetamide | 2.3 g | ClC=1C=C(C=CC1)N(C(CNC(=O)NC1=CC(=CC=C1)C)=O)C1=CC=CC=C1 | C22H20ClN3O2
